US08304419B2
Step D: 3-Chloro-5-{[(2-hydroxyethyl)amino]carbonyl}-1H-pyrrole-2-carboxylic acid
LiOH (2 mL, 2 mmol) was added to a solution of methyl 3-chloro-5-{[(2-hydroxyethyl)amino]carbonyl}-1H-pyrrole-2-carboxylate (0.082 g, 0.33 mmol) in THF (2 mL) and methanol (2 mL). The solution was stirred at RT overnight. The solvent was evaporated and the residue partitioned between EtOAc and 1 N HCl. The organic layer was separated, dried over MgSO4, filtered and evaporated to afford very little solid. The aqueous layer was evaporated to a residue and the salts extracted with methanol. The methanol was evaporated to afford the title compound (0.042 g, 54%). 1H NMR (400 MHz, DMSO-d6) δ ppm 12.16 (br. s., 1H), 8.40 (t, 1H), 6.61-7.10 (m, 1H), 3.45 (t, 2H), 3.26 (q, 2H).

reactant | LiOH | 2 mmol, 2 mL | [Li+].[OH-]
reactant | methyl 3-chloro-5-{[(2-hydroxyethyl)amino]carbonyl}-1H-pyrrole-2-carboxylate | 0.33 mmol, 0.082 g | ClC1=C(NC(=C1)C(=O)NCCO)C(=O)OC | C9H11ClN2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | 3-Chloro-5-{[(2-hydroxyethyl)amino]carbonyl}-1H-pyrrole-2-carboxylic acid | 0.042 g, 54% | ClC1=C(NC(=C1)C(=O)NCCO)C(=O)O | C8H9ClN2O4
